US05045557
Dimethylsulphamoyl chloride (0.54 ml) was added to a mixture of 2-cyano-4-(2-nitrophenyl)-1H-imidazole (0.865 g) and sodium hydride (150 mg of 80% in oil). The mixture was heated under reflux for one hour and then poured into ice/water and extracted with ethyl acetate. The extract was washed with brine, dried and evaporated. The residual oil slowly solidified and was washed with ether and filtered to give 2-cyano-1-(dimethylsulphamoyl)4-(2-nitrophenyl)imidazole, m.p. 111°-4°. (Compound 4)

reactant | Dimethylsulphamoyl chloride | 0.54 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2-cyano-4-(2-nitrophenyl)-1H-imidazole | 0.865 g | C(#N)C=1NC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-] | C10H6N4O2
reactant | sodium hydride | 150 mg | [H-].[Na+]
product | 2-cyano-1-(dimethylsulphamoyl)4-(2-nitrophenyl)imidazole | C(#N)C=1N(C=C(N1)C1=C(C=CC=C1)[N+](=O)[O-])S(N(C)C)(=O)=O | C12H11N5O4S
